US05334576
Preparation of methyl 5-acetyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate
A solution of 0.68 g of 7-acetyl-2,8-dimethyl-2-isopropyl-5H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-3(2H),5-dione in 50 mL methanol is stirred at 5° and 0.06 g of sodium methoxide is added. The reaction is stirred and allowed to warm to room temperature over 3 hours, at which point it is acidified with acetic acid and concentrated in vacuo. The residue is dissolved in methylene chloride, washed with water, dried and concentrated in vacuo to afford the desired product. Recrystallization from methylene chloride-hexanes gives a solid, mp 118°-120°.

reactant | 7-acetyl-2,8-dimethyl-2-isopropyl-5H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-3(2H),5-dione | 0.68 g | C(C)(=O)C=1C=C2C(=NC1C)C=1N(C2=O)C(C(N1)(C(C)C)C)=O | C16H17N3O3
reactant | sodium methoxide | 0.06 g | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 mL | CO | CH4O
product | methyl 5-acetyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate | C(C)(=O)C=1C(=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O)C | C17H21N3O4
